US08609647B2
(7) Optically-Active Compound of 3-benzyloxycarbonylamino-3-(2-hydroxy-1-methylethyl)piperidine-1-carboxylic acid tert-butyl ester
A solution of an optically-active compound of 3-benzyloxycarbonylamino-3-(1-methylallyl)piperidine-1-carboxylic acid 1-tert-butyl ester (25.5 g) in chloroform/methanol (250 ml/250 ml) cooled to −78° C. was flowed ozone air for 30 minutes. To the reaction mixture was added sodium borohydride (7.5 g) in small batches, and the mixture was warmed to room temperature. To the mixture was added 5% aqueous sodium bicarbonate solution (250 ml), and the mixture was extracted with chloroform (125 ml). The separated aqueous layer was extracted with chloroform (125 ml) again. The combined organic layer was sequentially washed with a mixed aqueous solution of sodium bicarbonate/sodium thiosulfate (12.5 g/25.0 g, 275 ml), water (125 ml) and 10% aqueous sodium chloride solution (125 ml), dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=1/0 to 2/3) to give the titled compound (21.9 g).

reactant | 3-benzyloxycarbonylamino-3-(1-methylallyl)piperidine-1-carboxylic acid 1-tert-butyl ester | 25.5 g | C(C)(C)(C)OC(=O)N1CC(CCC1)(C(C=C)C)NC(=O)OCC1=CC=CC=C1 | C22H32N2O4
reactant | ozone | O=[O+][O-] | O3
reactant | sodium borohydride | 7.5 g | [BH4-].[Na+]
reactant | sodium bicarbonate | 250 ml | C([O-])(O)=O.[Na+]
solvent | chloroform methanol | 250 ml | C(Cl)(Cl)Cl.CO
product | 3-benzyloxycarbonylamino-3-(2-hydroxy-1-methylethyl)piperidine-1-carboxylic acid tert-butyl ester | 21.9 g | C(C)(C)(C)OC(=O)N1CC(CCC1)(C(CO)C)NC(=O)OCC1=CC=CC=C1 | C21H32N2O5
